US07994315B2
To a solution of benzylamine (1.29 g, 12.1 mmol) in methylene chloride was added triethylamine (7.6 g, 75.0 mmol), and then 2-bromo-1-(4-fluorophenyl)ethanone (3.27 g, 15.1 mmol) was added thereto. Aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was partitioned. The organic layer was dried over sodium sulfate and concentrated to give crude 2-(benzylamino)-1-(4-fluorophenyl)ethanone (1.85 g) as an oil. The oil (1.50 g) was dissolved in a mixed solvent of methanol (9 mL) and water (1 mL), and sodium borohydrogen (0.8 g) was added at room temperature. The reaction mixture was concentrated and extracted with tert-butyl methyl ether, and the organic layer was concentrated. Isopropyl acetate (4 mL) and heptane (4 mL) were added to the residue, and the mixture was refluxed. The precipitated crystals were collected by filtration and dried to give racemic 1-(4-fluorophenyl)-2-(benzylamino)ethanol (0.21 g). 1-(4-fluorophenyl)-2-(benzylamino)ethanol: 1H-NMR (CDCl3) δ: 2.70-2.73 (1H, m), 2.91-2.94 (1H, m), 3.80-3.88 (2H, m), 4.68-4.71 (1H, m), 7.00-7.52 (9H, m)

reactant | benzylamine | 12.1 mmol, 1.29 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 75.0 mmol, 7.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-1-(4-fluorophenyl)ethanone | 15.1 mmol, 3.27 g | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(benzylamino)-1-(4-fluorophenyl)ethanone | 1.85 g | C(C1=CC=CC=C1)NCC(=O)C1=CC=C(C=C1)F | C15H14FNO
